US08426447B2
Synthesis of N-((4S)-2-amino-7′-methoxyspiro[1,3-oxazole-4,9′-xanthen]-2′-yl)-5-chloro-2-pyridinecarboxamide
A solution of (S)-2′-azido-7′-methoxy-5H-spiro[oxazole-4,9′-xanthen]-2-amine (1.162 g, 3.59 mmol) in dichloromethane (25 mL) was treated with pyridine (0.775 mL, 9.50 mmol) followed by trifluoroaceticacid anhydride (0.9 mL, 6.43 mmol) at RT. The reaction was allowed to stir for 2 hours during which formation of desired product was detected (M+H˜420) along with traces of unreacted starting material. The reaction was allowed to stir for another 6 hours and diluted with DCM (75 mL), water (20 mL), and separated the organic layer. The organic layer was dried over anhydrous sodium sulfate, and concentrated to yield (S)—N-(2′-azido-7′-methoxy-5H-spiro[oxazole-4,9′-xanthene]-2-yl)-2,2,2-trifluoroacetamide as a yellowish solid. MS (ESI pos. ion) m/z: 420 (M+1).

reactant | (S)-2′-azido-7′-methoxy-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 3.59 mmol, 1.162 g | N(=[N+]=[N-])C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OC)N=C(OC3)N | C16H13N5O3
reactant | pyridine | 9.50 mmol, 0.775 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroaceticacid anhydride | 6.43 mmol, 0.9 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-((4S)-2-amino-7′-methoxyspiro[1,3-oxazole-4,9′-xanthen]-2′-yl)-5-chloro-2-pyridinecarboxamide | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)NC(=O)C2=NC=C(C=C2)Cl)OC)N1 | C22H17ClN4O4
